US07772256B2
To a solution of [3-fluoro-5-(5-methoxy-benzofuran-2-yl)-pyridin-2-yl]-methyl-carbamic acid tert-butyl ester (130 mg, 0.35 mmol) in dry CH2Cl2 (400 mL), BBr3 (2.1 mL, 2.10 mmol) was added at −78° C. The reaction mixture was allowed to warm to room temperature and the stirring was continued for 14 hours. The reaction was then quenched by addition of saturated aqueous NaHCO3 and the product was extracted with EtOAc (3×30 mL). The combined extracts were dried over MgSO4 and concentrated in vacuo. The crude residue was purified by preparative TLC using 30% EtOAc in CH2Cl2 to afford 2-(5-fluoro-6-methylamino-pyridin-3-yl)-benzofuran-5-ol (37 mg) as a white solid.

reactant | [3-fluoro-5-(5-methoxy-benzofuran-2-yl)-pyridin-2-yl]-methyl-carbamic acid tert-butyl ester | 0.35 mmol, 130 mg | C(C)(C)(C)OC(N(C)C1=NC=C(C=C1F)C=1OC2=C(C1)C=C(C=C2)OC)=O | C20H21FN2O4
reactant | BBr3 | 2.10 mmol, 2.1 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
product | 2-(5-fluoro-6-methylamino-pyridin-3-yl)-benzofuran-5-ol | 37 mg | FC=1C=C(C=NC1NC)C=1OC2=C(C1)C=C(C=C2)O | C14H11FN2O2
